US07671068B2
17. N—[(S)-2-(3,5-Dimethoxy-benzyloxy)-1-methyl-ethyl]-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-N-isopropyl-benzamide
Prepared from 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid and [(S)-2-(3,5-dimethoxy-benzyloxy)-1-methyl-ethyl]-isopropyl-amine as described for example 1.

reactant | 4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)benzoic acid | C(C)OC1=CC2=C(C(=N[C@@H]3CCN(C[C@H]23)C)C2=CC=C(C(=O)O)C=C2)C=C1OC | C23H26N2O4
reactant | [(S)-2-(3,5-dimethoxy-benzyloxy)-1-methyl-ethyl]-isopropyl-amine | COC=1C=C(COC[C@H](C)NC(C)C)C=C(C1)OC | C15H25NO3
product | N—[(S)-2-(3,5-Dimethoxy-benzyloxy)-1-methyl-ethyl]-4-((4aR,10bS)-9-ethoxy-8-methoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridin-6-yl)-N-isopropyl-benzamide | COC=1C=C(COC[C@H](C)N(C(C2=CC=C(C=C2)C2=N[C@@H]3CCN(C[C@@H]3C3=C2C=C(C(=C3)OCC)OC)C)=O)C(C)C)C=C(C1)OC | C38H49N3O6
